US04699990
2-(Hexadecyloxy) ethanol
A solution of 80 g of (hexadecyloxy) acetic acid in 350 ml of tetrahydrofuran was stirred at 0° C. while 798.71 ml of 1M borane in tetrahydrofuran was added dropwise over one hour. When addition was complete the mixture was stirred 2 hours than 50 ml of acetone was added followed by 60 ml of water dropwise. The tetrahydrofuran was allowed to evaporate overnight, then the residue was mixed with water and chloroform and heated to dissolve the solid. The organic layer was separated, dried and the solvent removed. The residue was recrystallized from cold methanol, giving 70.6 g of the desired compound as a white solid, mp 42°-44° C.

reactant | (hexadecyloxy) acetic acid | 80 g | C(CCCCCCCCCCCCCCC)OCC(=O)O | C18H36O3
reactant | borane | 1M, 798.71 ml | B | BH3
reactant | acetone | 50 ml | CC(=O)C | C3H6O
reactant | water | 60 ml | O | H2O
solvent | tetrahydrofuran | 350 ml | O1CCCC1 | C4H8O
product | 2-(Hexadecyloxy) ethanol | 70.6 g | C(CCCCCCCCCCCCCCC)OCCO | C18H38O2
